US06657085B2
0.75 mol of aqueous sodium hydroxide solution (30%) are added to an aqueous solution of 0.5 mol of 2-nitro-6-(1-hydroxyethyl)-benzoic acid (sodium salt), and, at 90-95° C., 50 g of hydrazine hydrate (1.0 mol) are metered in over the course of 1 hour. Stirring is carried out at 90-95° C. for 4-6 hours until the nitro compound has been completely converted and, after isolation, 2-amino-6-(1-hydroxyethyl)-benzoic acid (sodium salt) is obtained in a yield of 97% of theory, based on 2-acetyl-6-nitrobenzoic acid (LC analysis).

reactant | sodium hydroxide | 0.75 mol | [OH-].[Na+]
reactant | 2-nitro-6-(1-hydroxyethyl)-benzoic acid | 0.5 mol | [N+](=O)([O-])C1=C(C(=O)O)C(=CC=C1)C(C)O | C9H9NO5
reactant | hydrazine hydrate | 1.0 mol, 50 g | O.NN
product | 2-amino-6-(1-hydroxyethyl)-benzoic acid | yield of 97% | NC1=C(C(=O)O)C(=CC=C1)C(C)O | C9H11NO3
